// Generated for: spectre
// Design library name: playground
// Design cell name: common_source
// Design view name: schematic
simulator lang=spectre
global 0
parameters nf={{nf}} nfin={{nfin}} r={{res}} vb={{vb}} VDD={{vdd}}
include "{{model}}" section={{corner}}


// Library name: playground
// Cell name: common_source
// View name: schematic
R0 (VDD out) resistor r=r
vVin (in VSS) vsource dc=vb mag=1 type=dc
vVSS (VSS 0) vsource dc=0 type=dc
vVDD (VDD VSS) vsource dc=VDD type=dc
N0 (out in VSS VSS) lvtnfet m=1 l=14n nfin=nfin nf=(nf)*(1) par=(1) \
        par_nf=(1)*((nf)*(1)) asej=(54n)*(11n)*(nfin) + (nfin)*(int((nf)/2))*(((78n)-(14n)-(10n)-(0))*(11n)) \
         adej=(nfin)*(1+int(((nf)-1)/2))*(((78n)-(14n)-(10n)-(0))*(11n)) \
        psej=(1)*(nfin)*2*(54n)+(11n) + (nfin)*(int((nf)/2))*(1)*2*((78n)-(14n)-(10n)-(0)) \
         pdej=(nfin)*(1+int(((nf)-1)/2))*(1)*2*((78n)-(14n)-(10n)-(0)) \
        pdevdops=1 pdevlgeos=1 pdevwgeos=1 psw_acv_sign=1 plnest=1 \
        pldist=1 plorient=0 cpp=78n fpitch=48n xpos=-99 ypos=-99 ptwell=0 \
        sca=0 scb=0 scc=0 pre_layout_local=-1 ngcon=1 p_vta=0 p_la=0 \
        u0mult_fet=1 lle_sa=((78n)-(14n)/2) lle_sb=((78n)-(14n)/2) \
        lle_rxrxa=78n lle_rxrxb=78n lle_rxrxn=192n lle_rxrxs=192n \
        lle_pcrxn=55n lle_pcrxs=55n lle_nwa=2u lle_nwb=2u lle_nwn=192n \
        lle_nws=192n lle_ctne=0 lle_ctnw=0 lle_ctse=0 lle_ctsw=0 \
        lle_sctne=0 lle_sctnw=0 lle_sctse=0 lle_sctsw=0 lrsd=38.988u \
        dtemp=0 l_shape=0 l_shape_s=0 nsig_dop1=0 nsig_dop2=0 nsig_dibl=0 \
        nsig_pc=0 nsig_rx=0 fc_index=0 fc_sigma=3
c0 (out VSS) capacitor c=20f
ac ac start=1 stop=2T dec=20 annotate=status
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub