// Generated for: spectre
// Generated on: Apr 30 17:36:30 2019
// Design library name: bag_analog_ec
// Design cell name: cs_amp
// Design view name: schematic
simulator lang=spectre
global 0
parameters nf={{nf}} nfin={{nfin}} r={{res}} vb={{vb}} vdd={{vdd}}
include "/tools/tstech16/CLN16FFC/PDK/tsmcN16/../models/toplevel.scs" section=top_tt

// Library name: BAG_prim
// Cell name: nmos4_standard
// View name: schematic
subckt nmos4_standard B D G S
parameters l=60n w=500n nf=1
    M0 (D G S B) nch_lvt_mac l=l nfin=w w=10n+48n*(w-1) multi=1 nf=nf \
        sd=74.0n sa=90n sb=90n ploda1=16.0n ploda2=0 ploda3=0 plodb1=16.0n \
        plodb2=0 plodb3=0 nf_flag=1 smbt=1M smbb=1M dinsaflag=0 ppitch=0 \
        spot=103.00n spob=103.00n spotl1=103.00n spobl1=103.00n \
        spotl2=103.00n spobl2=103.00n spotr1=103.00n spobr1=103.00n \
        spotr2=103.00n spobr2=103.00n
ends nmos4_standard
// End of subcircuit definition.

// Library name: bag_analog_ec
// Cell name: cs_amp
// View name: schematic
X0 (VSS net1 in VSS) nmos4_standard l=90n w=nfin nf=nf
V2 (in VSS) vsource dc=vb mag=1 type=dc
V1 (VSS 0) vsource dc=0 type=dc
V0 (VDD VSS) vsource dc=vdd type=dc
C0 (net1 VSS) capacitor c=20f
R0 (VDD net1) resistor r=r
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=1 stop=2T annotate=status 
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
